US07081325B2
To tetrahydrofuran (300 g) were added N,N-dimethylacrylamide (70 g), acrolein (30 g) and AIBN (2,2′-azobisisobutyronitrile) (5 g). The resulting mixture was reacted at 66° C. for 8 hours. After reaction, the resulting mixture was precipitated in ether, filtered, and dehydrated, thereby obtaining poly(N,N-dimethylacrylamide/acrolein) (45 g).

reactant | N,N-dimethylacrylamide | 70 g | CN(C(C=C)=O)C | C5H9NO
reactant | acrolein | 30 g | C(=O)C=C | C3H4O
reactant | AIBN | 5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrahydrofuran | 300 g | O1CCCC1 | C4H8O
product | N,N-dimethylacrylamide acrolein | CN(C(C=C)=O)C.C(=O)C=C | InChI=1S/C5H9NO.C3H4O/c1-4-5(7)6(2)3;1-2-3-4/h4H,1H2,2-3H3;2-3H,1H2
